### PR TITLE
Hint mode

### PR DESCRIPTION
**Pull request by patrick-nicodemus**
This pull request is similar to the previous one, where the `Hint Mode` of `IsGraph` is changed to `!`, meaning that typeclass search will never try to solve `IsGraph ?A` unless `?A` is known.

I've done some more experimenting and debugging and I feel I have a little more to say regarding Coq's unification, elaboration and typeclass inference. Elaboration is a complex beast and there's a lot I really don't understand and I'm early in learning. Still, I learned a lot in the process of working on this so I'd like to document what I learned.

Let me start with the justification for this PR: I claim that the current setup makes the `rapply` tactic slow and inefficient, and to explain this I will discuss the refine tactic and elaboration in Coq.

In short, the way elaboration works in Coq for an incomplete term `t` declared to be of type `T` is:
1. Coq computes a type `U = type(t)` for `t`, which may contain holes.
2. Coq tries to unify `T` with `U`, solving all holes in the process.

This is very much a "bottom up" process: the declared type `T` has no effect at all at stage 1. It's possible to change this now using bidirectionality hints, which are not part of this PR, but I'll comment on these later, I think they could be useful.

Actually this process is apparently recursive, in the sense that while traversing the term `t` from the ground up, both steps are repeated for each subterm. For example, if `f a` is a small subterm of `t`, where `f` is a variable of declared type `forall x :A, B x` and `a` is a complex term, then: 
1. Coq computes a type `U_a = type(a)`, which may contain holes, and
2. Coq tries to unify `U_a` with `A` and if successful reports `B a` as the type of `f a`.

Typeclass search seems to be part of step 2; if unification fails, then by default we launch a typeclass search to instantiate the values within terms (if this flag is set to its default value, [Typeclass resolution for conversion](https://coq.inria.fr/doc/V8.18.0/refman/addendum/type-classes.html#coq:flag.Typeclass-Resolution-For-Conversion)).

Typeclass search seems to be regarded as a "success" for a given subterm if it successfully instantiates all the typeclass holes in a consistent way, even if these choices cause elaboration of the broader term to fail.

An important thing that can interfere with this process is coercions. In order for coercions `x -> f x` to work right in partially elaborated terms, we need to know the type that `x` needs to be in order to apply the coercion. For example, `g $o f` will fail in general if `g` needs to be coerced (say, from `Iso x y` to `Hom x y`) in order to be of the correct type, because we can't derive the Hom type from `g` alone.

Some of the downstream changes I made have a simple, obvious explanation. For example, in
```
Global Instance reflexive_Hom {A} `{Is01Cat A}
  : Reflexive Hom
  := fun a => Id a.
```
it should be clear that there is no way to "honestly" elaborate the expected type `Reflexive Hom` or `fun a => Id a` by deriving it from constraints, because `A` is not mentioned. Instead, in trying to elaborate `Hom ?A ?IsGraph ?Is01Cat`,
typeclass search would in theory search through the entire database plugging in all possible values of `?IsGraph`, but it starts with the hints prioritized in the context, and since the hints in the context give a valid solution to the typing problem, there's no need to continue the rest of the search. This seems harmless, although I think I have an aesthetic preference for explicit specification when things cannot be uniquely derived.

I think there are a few points in the code base where we are relying on a somewhat surprising elaboration strategy for terms. I will attach a small example, which is a paraphrased version of one of the changes in this commit.

```
Require Import WildCat.Core.
Require Import Algebra.AbGroups.AbelianGroup.
Axiom inv : forall (A : AbGroup), GroupIsomorphism A A.
Set Printing All.
Set Typeclasses Debug.
Set Debug "unification".
Definition abc1 (A B  : AbGroup) (f : Hom A B) := (inv B) $o f.
```
From reading the unification debug logs, the first thing that happens (after `f : Hom A B` is fully elaborated) is that we try to check that the application of `cat_comp` to `inv B` is valid by unifying the type of `inv B`, `GroupIsomorphism B B`, with `Hom ?A ?IsGraph ?Is01Cat ?x ?y` This unification fails almost immediately (thank you very much Gaetan Gilbert for helping me understand why!) so we try and elaborate both the type of `inv B` and `Hom ?A ?IsGraph ?Is01Cat ?x ?y` independently using typeclass search. 
 It's important to note here that when we are trying to elaborate this latter term, we are truly starting from scratch and starting to "elaborate" the term `Hom _ _ _ _ _` from nothing. The typeclass search is not being driven by the type argument, because there is no type argument, so it is just generating any arbitrary typeclasses of the form `Is01Cat` and `IsGraph`, and instantiating the type this way. In this case we get lucky and get the right answer, but only by the coincidence that `isgraph_abgroup` happened to be the most recent hint in the database - if you change `AbGroup` to `Group` in `inv` and `abc1`, it will fail because it still finds `isgraph_abgroup` as the most recent hint in the database and we can't convert a Group to an AbGroup.

So, in my opinion, this is not very robust, we are getting lucky, and I think we shouldn't rely on this elaboration technique, if possible we should try and understand why unification is failing and fix it. This is one argument for using `Hint Mode +` in some cases.

Now let me return to the discussion of `rapply`. Something like `Build_Is0Bifunctor''` takes, say, a dozen arguments, so we want `refine Build_Is0Bifunctor'' || refine Build_Is0Bifunctor'' _ || refine Build_Is0Bifunctor''  _ _` to fail quickly at each case so we quickly reach 12 arguments. The way this works is that we try to unify the type of `(Build_Is01Bifunctor'' _ _ _ _ _ _)` with the type of the goal, and if this fails, we launch typeclass search to elaborate the term and try again, but this is *not guided from the top down*, so we are trying every combination of hints in the database for the typeclass holes. This is very expensive. Using `Hint Mode !` on the parameter types would make this faster because we basically wouldn't carry out a typeclass search at all unless unification succeeded in instantiating the parameter types.

Now, bidirectionality is complementary to this. If we write 
```
Arguments Build_Is0Bifunctor'' {A B C} & { H H0 H1 _ } F _ _
```
then whenever we call `Build_Is0Bifunctor''`, it will first look to the context of the expected type to solve for `A, B, C`, and then try to elaborate the rest of everything from this. In this situation, as long as `Build_Is0Bifunctor` is being used in a situation where the correct types can be inferred from the external context then you will not have this unguided typeclass search. And in many cases where we remove typeclass inference with `Hint Mode +` we could restore the same elaboration behavior with bidirectionality hints, so hopefully not too many more annotations. On the other hand if unification fails completely (as in the first few iterations of `rapply`) then typeclass search will still start from a blank slate, so bidirectionality will not make as much of an impact there.

I experimented with bidirectionality and I found that in some cases you want to use it and in some you don't. If you have `cat_comp _ _ _ g f` where `g` needs to be coerced from `Iso x y -> Hom x y` or something, then bidirectionality is helping you, because deriving the category structure from `Iso x y` would give you the wrong answer. But if `g, f` are (say) group homomorphisms and you have a function application `(cat_comp _ _ _ g f) x`, then bidirectionality could hurt you here because based on the application it will derive that `(cat_comp _ _ _ g f)` should be of a function type, and therefore `Hom x y` should be a function type, and maybe it will now coerce `g, f` from group homomorphisms to functions before composing them. Or, if this unification fails, it will carry out typeclass search and just find any type with a category structure whose homs are function types.

In some of the commits below, we have to add additional type annotations. 
In some, `rapply` takes too much time to run; I checked that these can be fixed by adding more `Hint Mode +` types to make `rapply ` fail faster, but I chose a simpler patch.

A complementary fix for `rapply` would be perhaps to replace `refine (f _ _ _ _)` with `notypeclasses refine (f _ _ _ _); try(typeclasses eauto)` which should fail faster if it cannot successfully unify the type of the input with the type of the term at all, making the earlier stages much faster.

### CODE REVIEW

**Review by jdchristensen — COMMENTED** [review]
Thanks for the very detailed explanation!  I don't follow some of the points you made, but I appreciate the effort you took to understand this and explain it.

The changes here aren't too bad, but it's a bit annoying to have to write `cat_comp (A:=Foo)` in a number of places.  Is there a way to tell Coq to try using the second map to determine `A`?  Or any other trick we could use?

If not, some ideas are:
- Make a notation (maybe `f $o[A] g`?) that specifies the category.
- Make a notation (maybe `f oG g`) that specifically works with group homomorphisms.

My broader question is about the benefit.  The description of the PR talks about making `rapply` faster.  Can you give an example of something that is faster with this PR than without it?

File: theories/WildCat/Core.v [hunk 1]
```diff
@@ -340,7 +342,7 @@ End ConstantFunctor.
 
 (** Composite functors *)
 
-Global Instance is0functor_compose {A B C : Type}
+Instance is0functor_compose {A B C : Type}
```
[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/WildCat/Core.v:345]: Ah, this defaults to `export`, not `Local`, so my comment was confused.  But the combination of an `Instance` and `Hint Immediate` doesn't make sense to me.  (I commented on this elsewhere.)

File: theories/WildCat/Paths.v [hunk 2]
```diff
@@ -24,7 +24,7 @@ Local Existing Instances isgraph_paths is2graph_paths is3graph_paths | 10.
 
 (** Any type has composition and identity morphisms given by path concatenation and reflexivity. *)
 Global Instance is01cat_paths (A : Type) : Is01Cat A
-  := {| Id := @idpath _ ; cat_comp := fun _ _ _ x y => concat y x |}.
+  := { Id := @idpath _ ; cat_comp := fun _ _ _ x y => concat y x }.
```
[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/WildCat/Paths.v:27]: No, it is indeed related. The single brackets are part of the `Instance` vernacular command, which actually does more work than just adding the associated hint to the typeclasses hint database. When you write it like this, I think it uses the parameters from the declared class `Is01Cat A` to fill in the parameters of the record being defined. My guess is that the usual record syntax is syntactic sugar for `@Build_Is01Cat _ _ (@idpath _) (fun _ _ _ x y => concat y x)`, whereas this special Instance syntax is syntactic sugar for `@Build_Is01Cat A IsGraphA (@idpath _) (fun _ _ _ x y => concat y x)`, taking advantage of the fact that it's a top-level declaration. 

I find it somewhat bizarre that there are two different syntactic constructs in Coq for defining records, but anyway my upstream change broke this code and this was the simplest fix.

File: theories/Algebra/AbGroups/AbHom.v [hunk 3]
```diff
@@ -206,10 +206,7 @@ Proof.
 Defined.
 
 Global Instance is0bifunctor_ab_hom `{Funext}
-  : Is0Bifunctor (ab_hom : Group^op -> AbGroup -> AbGroup).
-Proof.
-  rapply Build_Is0Bifunctor''.
-Defined.
+  : Is0Bifunctor (ab_hom : Group^op -> AbGroup -> AbGroup) := Build_Is0Bifunctor'' _.
```
[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/Algebra/AbGroups/AbHom.v:209]: No, all the `rapply` changes are fixing breakages. I know I said in the original post that the point was to make `rapply` fail faster, but at several points in the code, `rapply` was finding the right solution quickly, and removing that hint caused it to search through the entire typeclass database unsuccessfully. A plausible explanation for this is that `rapply` was only fast in those locations "by chance" due to lucky positioning of the hint in the database, i.e., added recently above (which makes sense, when developing the theory of Abelian groups the typeclass instances relating to Abelian groups will be the most recently added hints in the database). I haven't tried to prove that claim but plausible alternative explanations aren't coming to mind right now.

File: theories/Algebra/AbGroups/AbPushout.v [hunk 4]
```diff
@@ -12,7 +12,7 @@ Local Open Scope mc_add_scope.
 
 Definition ab_pushout_subgroup {A B C : AbGroup} (f : A $-> B) (g : A $-> C)
   : Subgroup (ab_biprod B C)
-  := grp_image (ab_biprod_corec (ab_homo_negation $o f) g).
+  := grp_image (ab_biprod_corec (cat_comp (A:=Group) ab_homo_negation f) g).
```
[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/Algebra/AbGroups/AbPushout.v:15]: I think that was an oversight, I can change `Group` to `AbGroup` if that's preferred.

I was very confused and frustrated trying to understand why this code broke in response to my change, because I was hoping that the coercion `GroupIsomorphism >-> GroupHomomorphism` would get this to work. Gaetan Gilbert helped me out a lot this morning: coercions will only be used in unification if the target/codomain of the codomain is *syntactically* the same as the expected type. `cat_comp` expects that `ab_homo_negation` should be of type `Hom ?x ?y` for some `x` and `y`, but there's no coercion from `GroupIsomorphism >-> Hom`. I think it should be possible to revert these changes just by declaring a coercion `GroupHomomorphism >-> Hom` or `GroupIsomorphism >-> Hom` (unless that would lead to cycles!)

File: theories/WildCat/Core.v (hunk 1 above)
[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/WildCat/Core.v:345]: This is accidental and I'll remove it

**Comment by patrick-nicodemus** [comment]
Yes, I will try to construct examples of `rapply` working faster to move the discussion forward.

I think the `$o[A]` notation or something like it is a good idea. I can incorporate such a notation into the PR or try the alternative solution of adding a coercion. Still, something like `$o[A]` makes sense to have around in general.

File: theories/Algebra/AbGroups/AbPushout.v (hunk 4 above)
[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/Algebra/AbGroups/AbPushout.v:15]: > I think it should be possible to revert these changes just by declaring a coercion `GroupHomomorphism >-> Hom`

It would be great if that worked.  It might generate a warning about the uniform inheritance condition, but often such coercions work anyways.  But if there is a loop, that could be a problem.

[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/Algebra/AbGroups/AbPushout.v:15]: > I can change `Group` to `AbGroup` if that's preferred.

I might mean that less unfolding would happen.  E.g. if an argument is expected to be of type `Hom (A:=AbGroup) A B` and it's instead of type `Hom (A:=Group) A B`, things should work, because these are definitionally equal, but Coq would have to unfold things in order to check that.  Minor point, but if we are trying to produce something written in `A $-> B` form, then would should produce something in the right category.

File: theories/Algebra/AbGroups/AbHom.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/Algebra/AbGroups/AbHom.v:209]: I'm having trouble understanding this.  We have:
```coq
Fail refine Build_Is0Bifunctor''. (* Fails quickly. *)
Succeed refine (Build_Is0Bifunctor'' _). (* Succeeds quickly. *)
```
and yet `rapply Build_Is0Bifunctor''` loops.  Shouldn't it be essentially doing those two lines as its first two steps?

[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/Algebra/AbGroups/AbHom.v:209]: I was operating on the assumption that the Ltac semantics of `rapply Build_Is0Bifunctor''` does not expand it with holes, so that it's either treating it as \@Build_Is0Bifunctor'' or treating it as a reference which is then coerced internally somewhere in the code for `refine` to the term `@Build_Is0Bifunctor''`. 

Indeed, if you start trying `refine (\@Build_IsoBifunctor'' _ _ _ _ _ )` you will eventually hit one that takes a long time. (Strictly speaking I don't know it's a loop, I just think that it's a search space that grows exponentially in the number of typeclass holes)

File: theories/WildCat/Paths.v (hunk 2 above)
[the remark this answers is not in the document]
Comment (Alizter) [reply theories/WildCat/Paths.v:27]: I believe `:= { ... }` is just `:= {| ... |}` with typeclass search on missing parts. Classes are just records declared as a typeclass. It is convenient to have classes with tyepclass fields constructed this way. (That's the original motivation).

This is also why we can write `:= {}` for some instances, omitted fields being the main feature of this syntax.

File: theories/Algebra/AbGroups/AbHom.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/Algebra/AbGroups/AbHom.v:209]: Yes, I think you're right.  The code is in Basics/Tactics.v, and I guess because of the `uconstr` bit, it must be working with fully expanded terms.  It's still pretty surprising that if you add the right number of underscores, `refine (@Build_IsoBifunctor _ _ _ ...).` does succeed.  So it must be able to find the right instances.  Maybe your idea of delaying typeclass search until after it is checked that the term unifies with the goal (with evars) would be helpful.

File: theories/WildCat/Paths.v (hunk 2 above)
[the remark this answers is not in the document]
Comment (patrick-nicodemus) [reply theories/WildCat/Paths.v:27]: @Alizter I was only speculating, so I don't have any real investment in defending my claim, but I don't follow your reasoning.
- This code modification above fixed an upstream breakage, so something different is going on, but there were no missing record fields to begin with, so the behavior changes can't be only about missing record fields.
- If you are talking about typeclass search on the parameters of the class, I think that should already happen with the usual syntax.

**Comment by patrick-nicodemus** [comment]
This PR was motivated by downstream breakages in the rapply tactic while I was trying to work on my bicategory development, so I hope it's okay for me to draw examples from that PR rather than trying to find examples in the current master.

In #2215 in theories/WildCat/TwoOneCat.v, at the definition of `cat_postwhisker_pp`, there was previously an `rapply` tactic used, but after adding / removing typeclasses above, it takes too long to run. In the PR code we have

```
Definition cat_postwhisker_pp {A} `{IsBicategory A} {a b c : A}
  {f g h : a $-> b} (k : b $-> c) (p : f $=> g) (q : g $=> h)
  : k $@L (q * p) $== (k $@L q) * (k $@L p).
Proof.
  Set Typeclasses Debug.
  Set Typeclasses Depth 4.
  time rapply fmap_comp.
```
So, at each iteration before the final one, unification fails (it's the wrong number of holes for fmap_comp to unify with the goal) and this takes 13 seconds before giving up. Typeclass search is looking for 1-category structures on types ?X and ?Y and a 1-functor structure on ?F : ?X -> ?Y (all unknown because unification failed) and there are a lot of possible instantiations of these given a bicategory structure on ?X, so search takes a while.

Adding `Hint Mode IsGraph ! : typeclass_instances.` before the definition reduces this to 6.7s.
Adding both `Hint Mode IsGraph !` and `Hint Mode Is2Graph ! -` reduces it to 0.08s.

**Comment by patrick-nicodemus** [comment]
For contrast, without using `Hint Mode`, `time do_with_holes ltac:(fun x => nrefine x; try typeclasses eauto) fmap_comp` terminates in 0.01s; for performance it is obviously preferable to avoid typeclass search altogether if you can get away with it!

**Comment by Alizter** [comment]
Why not do `nrapply`? We very rarely use `rapply` in wildcat stuff.

**Comment by patrick-nicodemus** [comment]
I don't follow your point. The example I gave was not an instance of `rapply` that I had written, it was an instance of `rapply` which existed already in the codebase. Changing `rapply` to `nrapply` would have been an easy one-line fix. The fix I chose in this scenario was to replace the proof using `rapply` with a direct definition, which was also an easy one-line fix. But it would have been easier to not have to fix it at all, if `rapply` was more stable.

But the general scope here is beyond `rapply`, because this affects the elaboration of all terms.

"Robustness" of Coq code is pretty complex and subjective. That said, if you write a term `t : T` where `type(t)` cannot be unified with `T` , and so the elaboration falls back on totally unguided typeclass search to try and instantiate holes in `t`, then because of the lack of structure guiding the search, the outcome is going to be dependent on the order of typeclass hints in the database (I give an example in the OP) and so I think this is more likely to break later in response to refactoring. 

On the other hand it's definitely a convenient feature that makes the code more concise because typeclass search often hits the right answer quickly and helps the elaborator figure things out where we would otherwise need lots of annotations. So I think there's a tradeoff between concision and robustness here. The opposite extreme here is `Unset Typeclass Resolution For Conversion`, where typeclass resolution is never used to flesh out two terms in order to help them unify, and I think that would probably be infeasible. I'm not sure what the right balance is, but this PR is a small move from convenience -> robustness.

**Comment by jdchristensen** [comment]
> For contrast, without using `Hint Mode`, `time do_with_holes ltac:(fun x => nrefine x; try typeclasses eauto) fmap_comp` terminates in 0.01s; for performance it is obviously preferable to avoid typeclass search altogether if you can get away with it!

Have you looked into how much would need to change if we made `rapply` behave this way?  It does seem like it would get rid of a lot of fruitless search, but I don't know how often we rely on this behaviour working quickly by chance.

**Comment by jdchristensen** [comment]
> Why not do `nrapply`? We very rarely use `rapply` in wildcat stuff.

Really?  I thought we often needed the wildcat instances to be found.  Here's the data for WildCat/*.v:
```
    247 (s)nrapply
    194 (s)rapply
```
Anyways, I think this is beside the point.  It's a good idea to make rapply behave better, maybe by using `Hint Mode` more, maybe by changing `rapply` so it doesn't try fruitless search, or maybe with both.

I'm in favour of moving forward with this PR, but think we should first solve the composition issue.

> I think it should be possible to revert these changes just by declaring a coercion `GroupHomomorphism >-> Hom` or `GroupIsomorphism >-> Hom`

If that's true, then it could be added to this PR and maybe we'd be done.  If it doesn't work, then I think we should have a separate PR that introduces a notation for composition in a wildcat.  I proposed `f $o[A] g`, but another option would be something like `f $o g :> A`, paralleling `x = y :> A` to specify the type in which paths are taken.

**Comment by patrick-nicodemus** [comment]
> > For contrast, without using `Hint Mode`, `time do_with_holes ltac:(fun x => nrefine x; try typeclasses eauto) fmap_comp` terminates in 0.01s; for performance it is obviously preferable to avoid typeclass search altogether if you can get away with it!
> 
> Have you looked into how much would need to change if we made `rapply` behave this way? It does seem like it would get rid of a lot of fruitless search, but I don't know how often we rely on this behaviour working quickly by chance.

I did an experiment the other day where I replaced the definition of `rapply` with the following tactic:
```
Tactic Notation "rapply" uconstr(term)
  := do_with_holes ltac:(fun x => try (try (nrefine x || fail 2); fail); refine x) term.
```
If I wrote this correctly, it should try `nrefine x`, `nrefine (x _)`, ... until it finds a term `t` such that `nrefine t` succeeds;
then it fails and applies `refine t` instead so that the typeclass behavior is the same. I then fixed all the downstream breakages that were relying on `rapply` instantiating typeclasses in order to unify terms (because this tactic will not succeed if `nrefine` never succeeds)
https://github.com/patrick-nicodemus/HoTT/blob/rapply_v2/theories/Basics/Tactics.v

If I applied the timing experiment correctly, the results of this change are -1% time difference on average, which seems negligible. But I am not positive I correctly applied the timing script.

File: theories/WildCat/Paths.v (hunk 2 above)
[the remark this answers is not in the document]
Comment (JasonGross) [reply theories/WildCat/Paths.v:27]: I am pretty sure `{ ... }` is syntactic sugar for `{| ... |}` but with a bidirectionality hint enabled for the record constructor between the parameters and the fields.  Note that it predates general bidirectionality hints, so its existence as special syntax is something of a historical accident

**Comment by patrick-nicodemus** [comment]
Some minor stylistic changes. Added a coercion GroupIsomorphism >-> Hom which resolves four of the explicit Group category annotations. I tried adding a coercion GroupHomomorphism >-> Hom as well but this seemed to break more things downstream so I skipped it.

**Comment by jdchristensen** [comment]
> The original tactic I wrote down has slightly different shelving behavior than `refine`, so it isn't a drop-in replacement. I did an experiment the other day where I replaced the definition of `rapply` with the following tactic:
> 
> ```
> Tactic Notation "rapply" uconstr(term)
>   := do_with_holes ltac:(fun x => try (try (nrefine x || fail 2); fail); refine x) term.
> ```
> 
> If I wrote this correctly, it should try `nrefine x`, `nrefine (x _)`, ... until it finds a term `t` such that `nrefine t` succeeds; then it fails and applies `refine t` instead so that the typeclass behavior is the same.

I think you are right about how this behaves.  I suspect that it could be done more directly, maybe by using `unify`?

If you instead try your original way, where you just use `nrefine` and then do `typeclasses eauto` afterwards, does a lot more break?  I ask because I'd prefer an implementation that is more transparent and that doesn't do an extra unification step.

> If I applied the timing experiment correctly, the results of this change are -1% time difference on average, which seems negligible.

Interesting, I would have suspected a bigger improvement.  But when `rapply` was slow, we avoided it.  With your new version, there are probably places where it was avoided and could now be used.

> Anyway, skimming through that branch `rapply_v2` and its diff with master should indicate how big the changes are that would need to be made.

Unfortunately, in addition to the 69 lines that changed in an important way, that commit contains 52 lines with whitespace changes.  You have to avoid putting such unrelated changes into your commits.  Luckily, I found a way to view the changes without showing the whitespace changes:

https://github.com/HoTT/Coq-HoTT/compare/master...patrick-nicodemus:HoTT:rapply_v2?diff=unified&w=1

The library contains around 2000 uses of (s)rapply, so it's great that only 69 of them needed to change.  And 4 or 5 of those changes are improvements anyways, where `rapply` is simply replaced with `exact`.  So I think this is good evidence that replacing `rapply` with your new definition (or something similar) is sensible.  And it's probably worth adding `tapply` which behaves like the old `rapply`.  Then alphabetical order `napply`, `rapply`, `tapply` would also correspond to "strength of typeclass search" order.

**Comment by jdchristensen** [comment]
We should move the discussion of `rapply` out of this PR.  Can you make a new PR with your `rapply_v2` branch, but with the whitespace changes removed?

Also, can you redo the latest commit to *this* PR with the whitespace changes removed?

**Comment by patrick-nicodemus** [comment]
Whitespace changes removed

File: theories/Algebra/AbGroups/AbHom.v [hunk 5]
```diff
@@ -40,10 +40,10 @@ Defined.
 (** ** Coequalizers *)
 
 (** Using the cokernel and addition and negation for the homs of abelian groups, we can define the coequalizer of two group homomorphisms as the cokernel of their difference. *)
-Definition ab_coeq {A B : AbGroup} (f g : GroupHomomorphism A B)
+Definition ab_coeq {A B : AbGroup} (f g : Hom A B)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/AbHom.v:43]: Does this work?
```suggestion
Definition ab_coeq {A B : AbGroup} (f g : A $-> B)
```

File: theories/Algebra/AbSES/Core.v [hunk 6]
```diff
@@ -147,7 +147,7 @@ Definition path_abses_iso `{Univalence} {B A : AbGroup@{u}}
 
 (** A special case of the "short 5-lemma" where the two outer maps are (definitionally) identities. *)
 Lemma short_five_lemma {B A : AbGroup@{u}}
-  {E F : AbSES B A} (phi : GroupHomomorphism E F)
+  {E F : AbSES B A} (phi : Hom (A:=Group) E F)
```
Comment (jdchristensen) [inline theories/Algebra/AbSES/Core.v:150]: Since `phi` gets composed with and compared to elements of `Hom (A:=AbGroup)`, I think it should be in the same category:
```suggestion
  {E F : AbSES B A} (phi : Hom (A:=AbGroup) E F)
```

File: theories/Algebra/Groups/Group.v [hunk 7]
```diff
@@ -771,6 +771,9 @@ Defined.
 Global Instance isgraph_group : IsGraph Group
   := Build_IsGraph Group GroupHomomorphism.
 
+Definition isHom_GroupIsomorphism (G H : Group) : GroupIsomorphism G H -> Hom G H := idmap.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/Group.v:774]:
```suggestion
(** We add this coercion to make it easier to use a group isomorphism where Coq expects a category morphism. *)
Definition isHom_GroupIsomorphism (G H : Group) : GroupIsomorphism G H -> Hom G H := idmap.
```

File: theories/WildCat/Core.v [hunk 8]
```diff
@@ -9,6 +9,8 @@ Class IsGraph (A : Type) :=
   Hom : A -> A -> Type
 }.
 
+Hint Mode IsGraph ! : typeclass_instances.
```
Comment (jdchristensen) [inline theories/WildCat/Core.v:12]:
```suggestion
(** This tells Coq to not perform typeclass search on a goal of the form `IsGraph A` when the head of `A` is an evar, avoiding what is often a search involving all possible graph structures on all types.  With this hint in place, we need to occasionally annotate our terms to explicitly give the underlying type. *) 
Hint Mode IsGraph ! : typeclass_instances.
```

File: theories/Algebra/AbSES/Core.v [hunk 9]
```diff
@@ -185,7 +185,7 @@ Defined.
 
 (** Below we prove that homomorphisms respecting [projection] and [inclusion] correspond to paths in [AbSES B A]. We refer to such homomorphisms simply as path data in [AbSES B A]. *)
 Definition abses_path_data {B A : AbGroup@{u}} (E F : AbSES B A)
-  := {phi : GroupHomomorphism E F
+  := {phi : Hom (A:=Group) E F
```
Comment (jdchristensen) [inline theories/Algebra/AbSES/Core.v:188]:
```suggestion
  := {phi : Hom (A:=AbGroup) E F
```

File: theories/Algebra/AbSES/Core.v (hunk 6 above)
Comment (patrick-nicodemus) [reply theories/Algebra/AbSES/Core.v:150]: Sure, I just left this out because it was originally a GroupHomomorphism so this seems like an unrelated change.

Comment (jdchristensen) [reply theories/Algebra/AbSES/Core.v]: Well, both `Hom (A:=Group) E F` and `Hom (A:=AbGroup) E F` are definitionally the same as GroupHomomorphism, so the latter is not a "change" any more than using `Hom (A:=Group)` is a change.  In any case, it seems best to choose the one that lands in the same category as the other parts of the expression.

**Review by jdchristensen — DISMISSED** [review]
I approve, but I'll wait to see what @Alizter thinks before merging.

**Comment by Alizter** [comment]
It will be a couple of days before I can have a closer look. If there is a rush to get this through however, I don't mind @jdchristensen confirming the change and merging.

**Comment by jdchristensen** [comment]
> It will be a couple of days before I can have a closer look. If there is a rush to get this through however, I don't mind @jdchristensen confirming the change and merging.

I don't think there's any rush.  The diff is now quite clean, so it should be quick to review when you get a chance.

File: theories/Algebra/AbSES/Ext.v [hunk 10]
```diff
@@ -119,10 +119,7 @@ Proof.
 Defined.
 
 Global Instance is0bifunctor_abext `{Univalence}
-  : Is0Bifunctor (A:=AbGroup^op) ab_ext.
-Proof.
-  rapply Build_Is0Bifunctor''.
-Defined.
+  : Is0Bifunctor (A:=AbGroup^op) ab_ext := Build_Is0Bifunctor'' _.
```
Comment (Alizter) [inline theories/Algebra/AbSES/Ext.v:122]:
```suggestion
  : Is0Bifunctor (A:=AbGroup^op) ab_ext
  := Build_Is0Bifunctor'' _.
```

File: contrib/SetoidRewrite.v [hunk 11]
```diff
@@ -121,7 +121,7 @@ Defined.
 
 #[export] Instance gpd_hom_is_proper1 {A : Type} `{Is0Gpd A}
  : CMorphisms.Proper
-     (Hom ==> Hom ==> CRelationClasses.arrow) Hom.
+     (Hom (A:=A)==> Hom ==> CRelationClasses.arrow) Hom.
```
Comment (Alizter) [inline contrib/SetoidRewrite.v:124]:
```suggestion
     (Hom (A:=A) ==> Hom ==> CRelationClasses.arrow) Hom.
```

File: theories/WildCat/Core.v [hunk 12]
```diff
@@ -46,7 +49,7 @@ Global Instance reflexive_GpdHom {A} `{Is0Gpd A}
   := fun a => Id a.
 
 Global Instance reflexive_Hom {A} `{Is01Cat A}
-  : Reflexive Hom
+  : Reflexive Hom (A:=A)
```
Comment (Alizter) [inline theories/WildCat/Core.v:52]:
```suggestion
  : Reflexive Hom (A:=A)
```

This is the `A` of `Reflexive` rather than `Hom` and looks a bit weird written like this. Either you should swap the order of the arguments or put parentheses around `Hom`. Alternatively you could do `@Reflexive`.

What ever you choose, the same should be done for the other equivalence relation instances.

File: theories/WildCat/Core.v [hunk 13]
```diff
@@ -9,6 +9,9 @@ Class IsGraph (A : Type) :=
   Hom : A -> A -> Type
 }.
 
+(** This tells Coq to not perform typeclass search on a goal of the form `IsGraph A` when the head of `A` is an evar, avoiding what is often a search involving all possible graph structures on all types.  With this hint in place, we need to occasionally annotate our terms to explicitly give the underlying type. *)
```
Comment (jdchristensen) [inline theories/WildCat/Core.v:12]:
```suggestion
(** This tells Coq to not perform typeclass search on a goal of the form [IsGraph A] when the head of [A] is an evar, avoiding what is often a search involving all possible graph structures on all types.  With this hint in place, we need to occasionally annotate our terms to explicitly give the underlying type. *) 
```
Whoops, I used github notation instead of coqdoc notation.

**Comment by jdchristensen** [comment]
@Alizter Do you still want more time to look at this one?

**Comment by patrick-nicodemus** [comment]
I'm just going to comment here with an example of this robustness issue I mentioned above, because I find it pretty complicated and I need a convenient place to write down a simple example that illustrates the problem. @jdchristensen said in response to the original post that he didn't follow everything I said, so I'm trying to make a simpler example.

```
Require Import Basics.Overture Basics.Tactics. 
Require Import Types.Bool Types.Unit Types.Empty.

Class myType (b : Bool) := { type_of : Type }.
Instance myType_ff : myType false := { type_of := Empty }.
Instance myType_tt : myType true := { type_of := Unit }.

Definition f {b : Bool} {p : myType b} (x : @type_of _ p) : Unit := tt.
Definition abc := f tt.
```
This definition succeeds, but if you swap the order of the instances, it fails.

What's happening is this.
Expanding the term, you get `f _ _ tt`. The type signature of `f` is defined so that the type of the third argument `x` is `@type_of _ _`. So, we try to unify `@type_of _ _` with the type of `tt`, which is `Unit`. This is not a problem that unification knows how to solve, so we fall back on typeclass inference. Typeclass inference is going completely blind here, because unification failed completely, so it has to instantiate `myType ?b` without knowing `?n`. It keeps trying hints until it "succeeds" by instantiating the typeclass. Since `@typeof true mytype_tt` is unifiable with `Unit`, it succeeds and we can apply `f` to `tt`. But `@typeof false mytype_ff` is also considered a valid solution from the point of view of typeclass inference, because `?b` is a free variable; so typeclass inference succeeds, and then we try to unify `Unit` with `@typeof false mytype_ff`, which we obviously cannot do, so we have a failure.

So I consider this a robustness issue, because whether elaboration of a term succeeds or not should not be dependent upon subtle details such as typeclass ordering. Let us now discuss possible solutions to this issue, which are not necessarily mutually exclusive.
1. Reduce the amount of such fragile code that we write, by using `Hint Mode myType ! : typeclass_instances.` and the weaker version of `rapply` I have suggested in another PR. This would simply cause both definitions to fail, because typeclass search would fail immediately rather than randomly guessing at a type it couldn't solve. Of course this doesn't solve the problem, it just surfaces instances of the problem in the codebase and prevents us from writing more code that relies on that elaboration behavior.
2. Give a hint to the unification algorithm that  `@type_of ?b ?mytype ~ Unit` can be solved by the instantiation `@type_of true mytype_tt ~ Unit`, so unification solves the problem directly and we don't have to fall back on typeclass inference. This is exactly what happens when you declare `mytype_tt` as a `Canonical Structure`, and we can see that when you replace `Instance` with `Canonical Structure` above, it solves the problem.
3. Bidirectionality. Bidirectionality doesn't solve the example above, but it helps with a similar example:
```
Definition g {b : Bool} {p : myType b} (x : @type_of _ p) : @type_of _ p := x.
Definition f (x : @type_of true _) : Unit := tt.
Arguments g {b} & {p}. (* Succeeds if this line is present, fails otherwise *)
Definition abc := f (g tt).
```
The point here is that in this situation, the argument `b` of `g` can't always be derived from `x` alone, so you can tell Coq to instead derive the type of `b` from the surrounding context. Here, the output of `g` should have type `myType true` to align with `f`, so we get the value of `b` and can solve for `p` correctly based on that. I don't know yet for what kinds of functions we should use bidirectionality hints, but it seems common to use them for record constructors between the parameters and the arguments.

File: theories/Algebra/Groups/Group.v [hunk 14]
```diff
@@ -771,6 +771,10 @@ Defined.
 Global Instance isgraph_group : IsGraph Group
   := Build_IsGraph Group GroupHomomorphism.
 
+(** We add this coercion to make it easier to use a group isomorphism where Coq expects a category morphism. *)
+Definition isHom_GroupIsomorphism (G H : Group) : GroupIsomorphism G H -> Hom G H := idmap.
+Coercion isHom_GroupIsomorphism  : GroupIsomorphism >-> Hom.
```
Comment (Alizter) [inline theories/Algebra/Groups/Group.v:776]:
```suggestion
Identity Coercion isHom_GroupIsomorphism  : GroupIsomorphism >-> Hom.
```
Documentation on this is terrible:
https://coq.inria.fr/doc/master/refman/addendum/implicit-coercions.html#identity-coercions

Basically its a coercion that doesn't insert a term. This is useful for elaboration. So `GroupIsomoprhism` will be treated as a `Hom` and elaboration will work on that, but `isHom_GroupIsomorphism` won't be inserted.

Also I don't like the name. Something like `groupisomorphism_to_hom` is better IMO.

**Comment by jdchristensen** [comment]
@patrick-nicodemus Thanks for the great overview.

> Let us now discuss possible solutions to this issue, which are not necessarily mutually exclusive.

I'll add a couple of things:

5. Annotate instances with priorities (also called costs).  The example involving `myType` works with the instances in either order if `myType_ff` is given a higher cost.  When we have instances that are not likely to be used or are too generic, we should give them higher costs.
6. Remove some instances that are not likely to be used much in practice.  If they are needed in a particular file, they can be added at the top of the file with a simple `Existing Instance` command.  Similarly, some global/export instances could be made local.

I also don't think it's really that serious a problem if the behaviour sometimes depends on the order in which files are imported.  We should in general import the most generic things first and the most specific things later, which will often mean that the desired instances are tried first.  Even if either order works, this should speed up type class search.  (And it's worth noting that many of the suggestions in our lists will not only improve how often typeclass search succeeds, but will likely speed it up as well.)

**Comment by jdchristensen** [comment]
I've thought a bit more about the idea of using `Hint Mode !` and how it will interact with how we use the WildCat library in practice.  For example, we often use it to deal with pointed types.  Currently, almost nothing about pointed types is expressed in WildCat notation, and yet we use results from the WildCat library freely.  This means that Coq has to search through various wild category structures before it finds one that matches the goal.  Adding `Hint Mode !` to `IsGraph` doesn't seem to hurt this, but I think that's only because Coq does searches on `Is2Graph`, etc., which do eventually find the right instance, which then forces the `IsGraph` instance to be resolved correctly.  If we added `Hint Mode !` to all of the WildCat structures, I think we'd find that we need to add `(A:=pType)` to _every_ use of the WildCat library for pointed types, and similarly in other situations (`Type`, `Group`, etc).

We could adapt the pointed types library to use WildCat notation (e.g. by making the existing notations like `o*` and `==*` synonyms for WildCat notations), which I think would remedy this.  But we'd have to do this not just for pointed types, but throughout the library (even for `(A:=Type)`), and it would be a _lot_ of work.  So I think there's a fundamental conflict between having the WildCat library be useful for things not expressed in WildCat notation and the hope of getting rid of undirected search.

We could add more coercions to WildCat `Hom`, but I tried this for pointed maps, and didn't get far.  Even just adding a type that would be the domain of the coercions caused lots of build failures for reasons I couldn't figure out:
```coq
Definition pMap (A B : pType) := pForall A (pfam_const B).
Notation "A ->* B" := (pMap A B) : pointed_scope.
```
(This also suggests that changing `A ->* B` to be a synonym for the wildcat `Hom` is going to lead to lots of build failures.)

So my general summary is:  Adding `Hint Mode !` to `IsGraph` doesn't actually reduce typeclass search much in practice, since almost all of the time Coq will still search for `Is2Graph`, etc.  And I don't think it will be feasible to use `Hint Mode !` on all wild category structures without a major overhaul.  So I feel like this PR is going in a direction that won't be productive in the long run, and so maybe we should decide not to merge it.

BTW, adding
```coq
Existing Instance isgraph_ptype | 0.
```
to the top of pSusp.v makes Coq find the right instance immediately.  So I think adding some lines like that to appropriate files is a good way to control typeclass search and make it find what we want quickly.

File: theories/Algebra/Groups/Group.v (hunk 14 above)
Comment (patrick-nicodemus) [reply theories/Algebra/Groups/Group.v:776]: This gives me the error message "GroupIsomorphism must be a transparent constant." Do you know a fix for this?

Comment (jdchristensen) [reply theories/Algebra/Groups/Group.v:776]: I also had trouble trying something similar.  BTW, if this trick works, could it be applied to `GroupHomomorphism` instead of `GroupIsomorphism` without leading to cycles?  That would help us use WildCat results more often when dealing with group homomorphisms.

**Comment by patrick-nicodemus** [comment]
> So my general summary is: Adding Hint Mode ! to IsGraph doesn't actually reduce typeclass search much in practice, since almost all of the time Coq will still search for Is2Graph, etc. 

I agree with this. I didn't want to dramatically transform the library in one PR, so I thought it was best to make one small change (to IsGraph) and fix the breakages. But you're right that only removing one of the instances will have no effect as long as typeclass search continues for the other ones.

> And I don't think it will be feasible to use Hint Mode ! on all wild category structures without a major overhaul.

This made me curious about how much work it would take. I have created a branch of this PR at patrick-nicodemus/HoTT called "hint_mode_wildcat" where I use `Hint Mode` for the type parameter of almost all of the wildcat instances. (If there is more than one type parameter, as in the case of functors, then I only make one of the type parameters into a ! to prevent completely blind search.) 
So it looks like:
```
Hint Mode IsGraph ! : typeclass_instances.
Hint Mode Is01Cat ! - : typeclass_instances.
Hint Mode Is0Gpd ! - - : typeclass_instances.
Hint Mode Is0Functor + - - - - : typeclass_instances.
Hint Mode Is2Graph ! - : typeclass_instances.
Hint Mode Is1Cat ! - - - : typeclass_instances.
Hint Mode HasMorExt ! - - - - : typeclass_instances.
Hint Mode Is1Functor + - - - - - - - - - - - : typeclass_instances.
Hint Mode Is1Gpd ! - - - - - : typeclass_instances.
Hint Mode Is1Natural ! - - - - - - - - - - - : typeclass_instances.
```

```
Here is the most recent commit if you want to see the overall size of the changes that have to be made. https://github.com/HoTT/Coq-HoTT/commit/d8be8d171dece40ec637ca268542958eb93165b0

**Comment by jdchristensen** [comment]
> I have created a branch of this PR at patrick-nicodemus/HoTT called "hint_mode_wildcat" where I use `Hint Mode` for the type parameter of almost all of the wildcat instances.

Thanks for doing this!  I think we have to decide to either go fully in with this approach, using `Hint Mode !` or `+` on all of the classes, or not do it at all, so your new branch is very valuable.

The changes are much less than I expected.  But it's still the case that various things become just slightly more awkward.  Being able to smoothly apply WildCat lemmas to situations not using WildCat notation is really valuable, and I'm reluctant to impose these "papercuts" on all uses of the WildCat library, especially since there still don't seem to be any concrete benefits.  You've mentioned challenges while refactoring, but most of the time people are proving things, and we want that to be as easy as possible.

My suggestion is that we focus on changes that will make the typeclass search more efficient.  For example, we can use priorities/costs more.  Also, instead of importing all of WildCat, we should be selective, so we don't have the wildcat structures on Unit and Empty in the typeclass database, cluttering up the search.  And at the top of a file, we can re-add important instances to the database, so they come first in the search.  Etc.

**Comment by patrick-nicodemus** [comment]
Assuming we decide not to merge this PR, would you be willing to merge many of the "paper cuts" in this PR on the grounds that these are "accidents waiting to happen", i.e. the things changed in this PR identify things that could possibly break later during refactoring? This would have no effect on the end user. Many of the changes are not too ugly, they are little one line fixes, sometimes a single character.

**Comment by jdchristensen** [comment]
To me, a lot of the changes clutter things up, so I would have a preference to not make them.  A few would be fine, e.g. changing `{a b}` to `{a b : A}` is perfectly reasonable and probably helps the reader.  And changing `rapply fmap_comp.` to `:= fmap_comp _ _ _.` is an improvement.  I think most of the others are better left undone.  That's just my opinion, and I'd like to hear what @Alizter thinks.

File: theories/Algebra/Categorical/MonoidObject.v [hunk 15]
```diff
@@ -205,7 +205,7 @@ Defined.
 Section MonoidEnriched.
   Context {A : Type} `{HasEquivs A} `{!HasBinaryProducts A}
     (unit : A) `{!IsTerminal unit} {x y : A}
-    `{!HasMorExt A} `{forall x y, IsHSet (x $-> y)}.
+    `{!HasMorExt A} `{forall x y : A, IsHSet (x $-> y)}.
```
Comment (Alizter) [inline theories/Algebra/Categorical/MonoidObject.v:208]: Leave this

File: theories/Algebra/AbSES/Ext.v [hunk 16]
```diff
@@ -119,10 +119,8 @@ Proof.
 Defined.
 
 Global Instance is0bifunctor_abext `{Univalence}
-  : Is0Bifunctor (A:=AbGroup^op) ab_ext.
-Proof.
-  rapply Build_Is0Bifunctor''.
-Defined.
+  : Is0Bifunctor (A:=AbGroup^op) ab_ext 
+  := Build_Is0Bifunctor'' _.
```
Comment (Alizter) [inline theories/Algebra/AbSES/Ext.v:123]: this

File: theories/Algebra/AbSES/BaerSum.v
Comment (Alizter) [inline theories/Algebra/AbSES/BaerSum.v:1]: these

File: theories/Algebra/AbGroups/AbHom.v
Comment (Alizter) [inline theories/Algebra/AbGroups/AbHom.v:1]: these

**Review by Alizter — COMMENTED** [review]
I have marked the changes we can take from here. Let's open a new PR as to keep the discussion on point. This PR was about proposing `Hint Mode` and it seems it wasn't successful due to reasons we don't fully understand. Please open a new PR with the changes I marked, since they are a net readability improvement.

**Comment by jdchristensen** [comment]
> This PR was about proposing `Hint Mode` and it seems it wasn't successful due to reasons we don't fully understand.

I don't agree with this summary.  @patrick-nicodemus has shown that it *is* possible to use `Hint Mode` for all of the main wildcat classes.  But it requires various minor annotations, and I think it's clear why:  when a goal doesn't specifically use wildcat definitions, typeclass search has no way of knowing which instances will make the `Hom` types match the morphism types in the goal.  So I think there's a legitimate decision here between reducing undirected type class search vs making it convenient to apply wildcat results to non-wildcat goals.  I'm leaning towards keeping the latter convenient.

Either way, we've also learned about how to reduce the amount of typeclass search, and I'll make a PR soon with a few minor changes illustrating this.

I agree that some of the changes in this PR should also be made in a separate PR.  Your list seems like a pretty reasonable subset to choose.

**Comment by patrick-nicodemus** [comment]
I may have said this before but the VSCode Coq plugin does not yet support the very useful feature of interrupting a tactic that is taking a long time to run, so typeclass searches that loop or take exponential time to run require me to kill VSCode and reopen it. This irritation has been in mind when opening these related PR's. I think I'll switch back to ProofGeneral until that feature gets added, because otherwise interactive development with this library becomes quite painful. (Even "Check fmap11" can cause a typeclass loop and halt development since fmap11 has so many maximally inserted implicit arguments.)

**Comment by Alizter** [comment]
If you use `coq-lsp` you can just do `Restart coq-lsp`.

**Comment by jdchristensen** [comment]
@patrick-nicodemus Thanks again for experimenting with this.  It's been very useful.  But I think we should close this now.  Sound good?

**Comment by patrick-nicodemus** [comment]
@jdchristensen Sounds good, it's a little disappointing but I understand the criticism expressed. If I continue to run into breakages while refactoring, I might propose another PR in the same spirit, but I'll keep in mind that the policy is not to compromise on the strength of elaboration of newly proved theorems.

**Comment by JasonGross** [comment]
> And I don't think it will be feasible to use `Hint Mode !` on all wild category structures without a major overhaul.

One possible way to avoid this issue is that you can stick all the hints in a module, and only import it in files where the hints help, if it is feasible, for example, inside the wildcats library but not outside
